US09290485B2
To a solution of Methyl 1,2-dimethyl-1H-benzo[d]imidazole-5-carboxylate (500 mg, 2.448 mmol) in THF (24.5 ml) Lithiumaluminium hydride (1 M in THF, 2.44 ml) was added at 0° C. After 2 hours sodium sulfate decahydrate and citric acid was added to the reaction to destroy the excess of lithiumaluminiumhydride. After 1 hour, methanol (25 ml) was added and the fine suspension was filtered off. The filtrate was evaporated under reduced pressure to afford a brown solid. EA (50 ml) was added and the suspension was treated in an ultra sonic bath. The solid was filtered off and this procedure was repeated twice. The yellow filtrate was evaporated under reduced pressure to afford crude (1,2-Dimethyl-1H-benzo[d]imidazol-5-yl)methanol.

reactant | Methyl 1,2-dimethyl-1H-benzo[d]imidazole-5-carboxylate | 2.448 mmol, 500 mg | CN1C(=NC2=C1C=CC(=C2)C(=O)OC)C | C11H12N2O2
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | EA | 50 ml | CC(OCC)=O | C4H8O2
solvent | THF | 1 M, 24.5 ml | C1CCOC1 | C4H8O
product | (1,2-Dimethyl-1H-benzo[d]imidazol-5-yl)methanol | CN1C(=NC2=C1C=CC(=C2)CO)C | C10H12N2O
